US07429583B2
8-{2-[1,1-dimethyl-3-(2-oxo-5-trifluoromethyl-2,3-dihydro-benzimidazol-1-yl)-propylamino]-1-hydroxy-ethyl}-6-hydroxy-4H-benzo[1,4]oxazin-3-one
Prepared according to general method 1 from 357 mg (1 mmol) 6-benzyloxy-8-(2-ethoxy-1,2-dihydroxy-ethyl)-4H-benzo[1,4]oxazin-3-one and 287 mg (1 mmol) 1-(3-amino-3-methyl-butyl)-5-trifluoromethyl-1,3-dihydro-benzimidazol-2-one. Yield: 76 mg (13%, trifluoroacetate); mass spectroscopy: [M+H]+=495.

reactant | 6-benzyloxy-8-(2-ethoxy-1,2-dihydroxy-ethyl)-4H-benzo[1,4]oxazin-3-one | 1 mmol, 357 mg | C(C1=CC=CC=C1)OC=1C=C(C2=C(NC(CO2)=O)C1)C(C(O)OCC)O | C19H21NO6
reactant | 1-(3-amino-3-methyl-butyl)-5-trifluoromethyl-1,3-dihydro-benzimidazol-2-one | 1 mmol, 287 mg | NC(CCN1C(NC2=C1C=CC(=C2)C(F)(F)F)=O)(C)C | C13H16F3N3O
reactant | trifluoroacetate | FC(C(=O)[O-])(F)F
product | 8-{2-[1,1-dimethyl-3-(2-oxo-5-trifluoromethyl-2,3-dihydro-benzimidazol-1-yl)-propylamino]-1-hydroxy-ethyl}-6-hydroxy-4H-benzo[1,4]oxazin-3-one | CC(CCN1C(NC2=C1C=CC(=C2)C(F)(F)F)=O)(C)NCC(O)C2=CC(=CC=1NC(COC12)=O)O | C23H25F3N4O5
